US05192765
(a) 1-Diphenylmethoxy-2-formylamino-2-methylpropane
A mixture of 2-amino-1-diphenylmethoxy-2-methylpropane (7.6 g -- see Preparation 1) and ethyl formate (6.7 g) was heated at 100° in a steel bomb for 18 hours and evaporated. The residue was purified by chromatography on silica (18 g) using hexane plus 0-100% methylene chloride as the eluant. Appropriate fractions were combined and evaporated to give the title compound as a colourless gum (8.4 g, 99%).

reactant | 2-amino-1-diphenylmethoxy-2-methylpropane | 7.6 g | NC(COC(C1=CC=CC=C1)C1=CC=CC=C1)(C)C | C17H21NO
reactant | ethyl formate | 6.7 g | C(=O)OCC | C3H6O2
product | 1-Diphenylmethoxy-2-formylamino-2-methylpropane | 8.4 g, 99% | C1(=CC=CC=C1)C(OCC(C)(C)NC=O)C1=CC=CC=C1 | C18H21NO2
